US07390907B2
A solution of 4-[5-(4-trifluoromethyl-phenyl)-pyridin-3-yloxy]-benzothiazol-2-ylamine (12 mg, 0.031 mmol), acetic anhydride (10 uL, 0.074 mmol) and pyridine (1 mL) was heated at 60° C. for 18 h. The solution was concentrated under an N2 stream and the resulting mixture was purified by prep LC (10-90% CH3CN/H2O modified with 0.1% TFA) to give N-{4-[5-(4-trifluoromethyl-phenyl)-pyridin-3-yloxy]-benzothiazol-2-yl}-acetamide as a white solid [MS (ESI, pos. ion) m/z: 430 (M+1)].

reactant | 4-[5-(4-trifluoromethyl-phenyl)-pyridin-3-yloxy]-benzothiazol-2-ylamine | 0.031 mmol, 12 mg | FC(C1=CC=C(C=C1)C=1C=C(C=NC1)OC1=CC=CC2=C1N=C(S2)N)(F)F | C19H12F3N3OS
reactant | acetic anhydride | 0.074 mmol, 10 uL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-{4-[5-(4-trifluoromethyl-phenyl)-pyridin-3-yloxy]-benzothiazol-2-yl}-acetamide | FC(C1=CC=C(C=C1)C=1C=C(C=NC1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)(F)F | C21H14F3N3O2S
